* C:\users\janhenrik\Meine Dokumente\STM32Cube\Enlighted-Otter\HW\Sim\Boost.asc
M1 N001 GATE 0 0 FDS5690
L1 VIN N001 3.3µH Ipk=3.6 Rser=0.0399 Rpar=15.543 Cpar=1.13548e-11
D1 N001 VOUT SS24
C1 VOUT 0 20µF V=25 Irms=15 Rser=0.03 Lser=0.001 Rpar=0.03 Cpar=0.001
R1 GATE N002 5 tol=1 pwr=1
V1 VIN 0 4.2 Rser=0.01
V2 N002 0 PULSE(0 5 0 0 0 9.791e-7 0.0000013888 50000)
R2 VOUT 0 55 tol=1 pwr=0.1
.model D D
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.00201 0.002000
.backanno
.end
